US08937184B2
Part D: To a magnetically stirred solution of methyl 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylate (8.0 gram, 0.035 mol) in THF (100 ml) was added a solution of LiOH (1.68 gram) in water (100 ml). The resulting mixture was heated at 70° C. for 16 hours, allowed to attain room temperature and acidified with 2 molar equivalents of a 1N HCl solution. The formed precipitate was collected to give crude 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylic acid (7.0 gram, 93% yield). 1H-NMR (400 MHz, DMSO-d6): 2.31 (s, 3H), 2.43 (s, 3H), 7.56-7.61 (m, 2H), 7.66-7.71 (m, 3H).

reactant | methyl 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylate | 0.035 mol, 8.0 gram | CC=1N(C(=C(N1)C(=O)OC)C)C1=CC=CC=C1 | C13H14N2O2
reactant | LiOH | 1.68 gram | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylic acid | 7.0 gram, 93% yield | CC=1N(C(=C(N1)C(=O)O)C)C1=CC=CC=C1 | C12H12N2O2
